US05883106
C. 4-Cyano-4-[3-[4-(2-methylimidazol-1-yl)phenoxy]phenyl]-3,4,5,6-tetrahydro2H-pyran
A mixture of 4-(2-methylimidazol-1-yl)phenyl iodide (1.28 g, 4.5 mmol), 4-cyano-4-(3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran (1.20 g, 5.9 mmol) and K2CO3 (4.15 g, 30 mmol) in pyridine (50 ml) was heated at 130° C., cupric oxide (636 mg, 8.0 mmol) added and the reaction mixture was heated under reflux for 2 days. The reaction mixture was cooled and filtered through a celite pad and the solids were washed with ethyl acetate (100 ml). The filtrate was concentrated in vacuo, and the resulting residue was diluted with water (100 ml) and extracted with ethyl acetate (50 ml×3). The combined organic extracts were washed with 1N aqueous NaOH (100 ml), water (100 ml) and brine (100 ml), dried (Na2SO4) and concentrated in vacuo. The residue was purified by column chromatography {LiChroprep NH2 (Merck), 100 g; eluted with hexane/ethyl acetate (1/1)} to afford 620 mg (38%) of the titled compound as a yellow oil.

reactant | 4-(2-methylimidazol-1-yl)phenyl iodide | 4.5 mmol, 1.28 g | CC=1N(C=CN1)C1=CC=C(C=C1)I | C10H9IN2
reactant | 4-cyano-4-(3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran | 5.9 mmol, 1.20 g | C(#N)C1(CCOCC1)C1=CC(=CC=C1)O | C12H13NO2
reactant | K2CO3 | 30 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-4-[3-[4-(2-methylimidazol-1-yl)phenoxy]phenyl]-3,4,5,6-tetrahydro2H-pyran | 620 mg, 38% | C(#N)C1(CCOCC1)C1=CC(=CC=C1)OC1=CC=C(C=C1)N1C(=NC=C1)C | C22H21N3O2
